US09340544B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-nitro-phenyl)-amine (2.89 g, 7.93 mmol) was dissolved in methanol (50 mL) and dichloromethane (50 mL). Palladium on carbon (5%, 600 mg) was added and the reaction mixture was stirred under a hydrogen atmosphere for 24 hours. Filtration through celite followed by concentration in vacuo gave N-[2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-benzene-1,4-diamine (2.6 g, 98%) as a yellow foam.

reactant | [2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-nitro-phenyl)-amine | 7.93 mmol, 2.89 g | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N8O2
solvent | methanol | 50 mL | CO | CH4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Palladium on carbon | 600 mg | [Pd] | Pd
product | N-[2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-benzene-1,4-diamine | 2.6 g, 98% | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)N | C17H18N8
